US06008230
To a mixture of diethyl malonate (368 mg) and N-methylpyrrolidone was added potassium tert-butoxide (246 mg) at 0° C., and the mixture was stirred for 30 minutes at ambient temperature. To a mixture was added 3-bromo-4-chloro-8-nitroquinoline (300 mg), and the mixture was stirred for 30 minutes at ambient temperature and for 30 minutes at 50° C. The mixture was poured into saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 4-[bis(ethoxycarbonyl)methyl]-3-bromo-8-nitroquinoline (315.6 mg).

reactant | diethyl malonate | 368 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium tert-butoxide | 246 mg | CC(C)([O-])C.[K+]
reactant | 3-bromo-4-chloro-8-nitroquinoline | 300 mg | BrC=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C9H4BrClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 4-[bis(ethoxycarbonyl)methyl]-3-bromo-8-nitroquinoline | 315.6 mg | C(C)OC(=O)C(C1=C(C=NC2=C(C=CC=C12)[N+](=O)[O-])Br)C(=O)OCC | C16H15BrN2O6
